US07157487B2
Methyl 2-(2-chlorophenyl)amino-7-fluoro-6-benzoxazolylacetate (2.12 g, 6.33 mmol) was dissolved in THF/methanol (2:1, 90 ml). To the resulting solution was added 1N NaOH (30 ml) and the mixture was stirred at room temperature for 3.5 hours. The solvent was distilled off under reduced pressure. The residue was acidified with 1N hydrochloric acid. The crystals thus precipitated were collected by filtration, washed with water and dried under reduced pressure, whereby 2-(2-chlorophenyl)amino-7-fluoro-6-benzoxazolylacetic acid (1.83 g, 90%) was obtained as a colorless solid.

reactant | Methyl 2-(2-chlorophenyl)amino-7-fluoro-6-benzoxazolylacetate | 6.33 mmol, 2.12 g | ClC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2F)CC(=O)OC | C16H12ClFN2O3
reactant | NaOH | 1N, 30 ml | [OH-].[Na+]
solvent | THF methanol | 90 ml | C1CCOC1.CO
product | 2-(2-chlorophenyl)amino-7-fluoro-6-benzoxazolylacetic acid | 1.83 g, 90% | ClC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2F)CC(=O)O | C15H10ClFN2O3
